US07250442B2
N-{4-[1-(2-Chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-phenyl}-acetamide
Combine 3-(4-amino-phenyl)-1-(2-chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one (126 mg, 0.26 mmol), N,N-diisopropylethylamine (0.068 mL, 0.39 mmol) and acetyl chloride (0.020 mL, 0.29 mmol) in CH2Cl2 (1 mL) and stirred at room temperature for 48 h. Dilute with CH2Cl2 and wash with water. Backwash water with CH2Cl2 and ethyl acetate. Combine all organics, dilute with more CH2Cl2 and wash with 1N HCl and brine. Dry (MgSO4), filter and concentrate in vacuo to give a residual foam. Purify by flash chromatography (gradient of 33% EtOAc/hexanes to 66% EtOAc/hexanes) to give 129 mg (67%) of the title compound as a white foam. MS (ES): m/z=525 (M+1), 523 (M−1); 1H NMR(DMSO-d6): δ9.99 (s, 1H), 7.53 (m, 3H), 7.41-7.26 (m, 4H), 7.12 (m, 3H), 6.98 (m, 2H), 6.82 (s, 2H), 5.08 (s, 2H), 3.64 (s, 3H), 2.15 (s, 6H).

reactant | 3-(4-amino-phenyl)-1-(2-chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 0.26 mmol, 126 mg | NC1=CC=C(C=C1)C1(C(N(C2=CC=CC=C12)CC1=C(C=CC=C1)Cl)=O)C1=CC(=C(C(=C1)C)OC)C | C30H27ClN2O2
reactant | N,N-diisopropylethylamine | 0.39 mmol, 0.068 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.29 mmol, 0.020 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[1-(2-Chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-phenyl}-acetamide | 129 mg, 67% | ClC1=C(CN2C(C(C3=CC=CC=C23)(C2=CC(=C(C(=C2)C)OC)C)C2=CC=C(C=C2)NC(C)=O)=O)C=CC=C1 | C32H29ClN2O3
